US03956315
Example 5 -- Preparation of N-(3-cyano-4-t-butylthien-2-yl)-N',N'-dimethyl urea
A solution of 3.04 g phosgene in about 25 ml benzene was added to a cooled (0°C.) solution of 5 g 2-amino-3-cyano-4-t-butylthiophene, 5 g diethylamine and 8.4 g triethylamine in 100 ml benzene. The reaction mixture was warmed to about 25°C. and maintained at this temperature for about 16 hours. The reaction mixture was filtered and the filtrate was evaporated to give a black oil. The oil was chromatographed on silica gel. The product, a brown solid melting at 120°-125°C., was eluted from the silica gel with 1:1 ether-hexane. The infrared spectrum of the product showed strong cyano absorption at 4.6 microns and strong carbonyl absorption at 6.0 microns. Sulfur analysis for the product is tabulated in Table I.

reactant | phosgene | 3.04 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-amino-3-cyano-4-t-butylthiophene | 5 g | NC=1SC=C(C1C#N)C(C)(C)C | C9H12N2S
reactant | diethylamine | 5 g | C(C)NCC | C4H11N
reactant | triethylamine | 8.4 g | C(C)N(CC)CC | C6H15N
solvent | benzene | about 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(3-cyano-4-t-butylthien-2-yl)-N',N'-dimethyl urea | C(#N)C1=C(SC=C1C(C)(C)C)NC(=O)N(C)C | C12H17N3OS
